US09169242B2
N-(5-(2-(tert-butyl)-5-(5,5-dimethyl-4-oxo-4,5-dihydroisoxazol-3-yl)phenyl)pyrazin-2-yl)-2,6-difluorobenzamide
To a 0° C. cooled and stirred, solution of 2,6-difluorobenzoyl chloride (0.083 mL, 0.66 mmol, 1.5 eq) in DCM (200 mL) was added drop wise a solution of 3-(3-(5-aminopyrazin-2-yl)-4-(tert-butyl)phenyl)-5,5-dimethylisoxazol-4(5H)-one, Intermediate 4b, (150 mg, 0.44 mmol, 1.0 eq) in DCM (50 mL) followed by pyridine (0.053 mL, 0.66 mmol, 1.5 eq). The resulting mixture was stirred at room temperature for 2 h. The reaction was diluted with DCM (100 mL), and washed with 10% hydrochloric acid (100 mL), dried (Na2SO4) and filtered. The filtrate was concentrated under vacuum and the crude product was purified by flash column chromatography (silica gel, 10% ethyl acetate in hexane) to afford 40 mg of the title product as a white solid. 1HNMR (400 MHz, CDCl3) δ 9.72 (s, 1H), 8.55 (s, 1H, D2O exchangeable), 8.28 (s, 1H), 8.14 (dd, J=9.0, 2.5 Hz, 1H), 7.86 (s, 1H), 7.70 (d, J=8.5 Hz, 1H), 7.52-7.45 (m, 1H), 7.07 (t, J=8.5 Hz, 2H), 1.43 (s, 6H), 1.23 (s, 9H); ESI-MS (m/z) 479 (MH)+.

reactant | 2,6-difluorobenzoyl chloride | 0.66 mmol, 0.083 mL, 1.5 eq | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
reactant | 3-(3-(5-aminopyrazin-2-yl)-4-(tert-butyl)phenyl)-5,5-dimethylisoxazol-4(5H)-one | NC=1N=CC(=NC1)C=1C=C(C=CC1C(C)(C)C)C1=NOC(C1=O)(C)C | C19H22N4O2
reactant | pyridine | 0.66 mmol, 0.053 mL, 1.5 eq | N1=CC=CC=C1 | C5H5N
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | N-(5-(2-(tert-butyl)-5-(5,5-dimethyl-4-oxo-4,5-dihydroisoxazol-3-yl)phenyl)pyrazin-2-yl)-2,6-difluorobenzamide | 40 mg | C(C)(C)(C)C1=C(C=C(C=C1)C1=NOC(C1=O)(C)C)C=1N=CC(=NC1)NC(C1=C(C=CC=C1F)F)=O | C26H24F2N4O3
